US07214802B2
Butyllithium (3.75 mL, 9.40 mmol) and TMEDA (2.24 mL, 14.85 mmol) were stirred at −20° C. in hexanes (7 mL) in an ethanol/dry ice/water bath for 30 minutes. 1-Methylimidazole (0.5 mL, 6.27 mmol) was added and the mixture stirred at room temperature for 1 h. After cooling to −20° C., Bu3SnCl (1.70 mL, 15.67 mmol) was added dropwise. The reaction stirred for 15 minutes at −20° C. then at room temperature overnight before being quenched with 1:1 EtOAc/water (20 mL). The layers were separated and the aqueous layer extracted with EtOAc (3×). The combined organics were washed with water, dried over Na2SO4, concentrated, and chromatographed (4:96 MeOH/EtOAc) to give 1-methyl-5-tributylstannanyl-1H-imidazole (0.486 g).

reactant | Butyllithium | 9.40 mmol, 3.75 mL | C(CCC)[Li]
reactant | TMEDA | 14.85 mmol, 2.24 mL | CN(C)CCN(C)C | C6H16N2
reactant | 1-Methylimidazole | 6.27 mmol, 0.5 mL | CN1C=NC=C1 | C4H6N2
reactant | Bu3SnCl | 15.67 mmol, 1.70 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
product | 1-methyl-5-tributylstannanyl-1H-imidazole | 0.486 g | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H5N2.3C4H9.Sn/c1-6-3-2-5-4-6;3*1-3-4-2;/h2,4H,1H3;3*1,3-4H2,2H3;
